US09085570B2
A solution of tert-butyl N-[4-(methanesulfonyloxy)cyclohexyl]carbamate (2.24 g, 7.64 mmol, 1.00 equiv), methyl 4-[5-methyl-4-(sulfanylmethyl)-1,3-oxazol-2-yl]benzoate (3.0 g, 11.39 mmol, 1.20 equiv) and cesium carbonate (5.55 g, 16.98 mmol, 2.00 equiv) in N,N-dimethylformamide (30 mL) was stirred at 50° C. under nitrogen atmosphere for 3 h. Water (100 mL) was added to quench the reaction. The resulting solution was extracted with 3×80 mL of ethyl acetate. The combined organic layers was washed with 2×200 mL of brine, dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was purified on a silica gel column eluted with ethyl acetate/petroleum ether (1:15-2:1) to give 960 mg (27%) of methyl 4-(4-[[(4-[[(tert-butoxy)carbonyl]amino]cyclohexyl)sulfanyl]methyl]-5-methyl-1,3-oxazol-2-yl)benzoate as a yellow solid. LC-MS: (ES, m/z): 461 [M+H]+, 405, 271, 230, 102.

reactant | tert-butyl N-[4-(methanesulfonyloxy)cyclohexyl]carbamate | 7.64 mmol, 2.24 g, 1.00 equiv | CS(=O)(=O)OC1CCC(CC1)NC(OC(C)(C)C)=O | C12H23NO5S
reactant | methyl 4-[5-methyl-4-(sulfanylmethyl)-1,3-oxazol-2-yl]benzoate | 11.39 mmol, 3.0 g, 1.20 equiv | CC1=C(N=C(O1)C1=CC=C(C(=O)OC)C=C1)CS | C13H13NO3S
reactant | cesium carbonate | 16.98 mmol, 5.55 g, 2.00 equiv | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Water | 100 mL | O | H2O
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | methyl 4-(4-[[(4-[[(tert-butoxy)carbonyl]amino]cyclohexyl)sulfanyl]methyl]-5-methyl-1,3-oxazol-2-yl)benzoate | 960 mg, 27% | C(C)(C)(C)OC(=O)NC1CCC(CC1)SCC=1N=C(OC1C)C1=CC=C(C(=O)OC)C=C1 | C24H32N2O5S
